US07153878B2
To a solution of 2-Methyl-2-[5-ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-propionic acid methyl ester (14.5 g, 40.6 mmol) in THF (100 mL) is added a solution of lithium aluminum hydride in THF (1.0 M, 41 mL) at 0° C. After 2 hrs, the reaction is quenched by water and sodium hydroxide, filtered, concentrated. Chromatography on silica gel gave 2-Methyl-2-[5-ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-propan-1-ol (12.3 g).

reactant | 2-Methyl-2-[5-ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-propionic acid methyl ester | 40.6 mmol, 14.5 g | COC(C(C)(C=1N=C(SC1CC)C1=CC=C(C=C1)C(F)(F)F)C)=O | C17H18F3NO2S
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 M, 41 mL | C1CCOC1 | C4H8O
product | 2-Methyl-2-[5-ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-propan-1-ol | 12.3 g | CC(CO)(C)C=1N=C(SC1CC)C1=CC=C(C=C1)C(F)(F)F | C16H18F3NOS
